US08557814B2
trans-4-[4-amino-5-(7-methoxy-1H-indol-2-yl)imidazo[5,1-f][1,2,4]triazin-7-yl]cyclohexanecarboxylic acid L-arginine salt
trans-4-[4-Amino-5-(7-methoxy-1H-indol-2-yl)-imidazo[5,1-f][1,2,4]triazin-7-yl]-cyclohexanecarboxylic acid (11.1 g, 27.4 mmol) and L-arginine (5.72 g, 32.9 mmol) were diluted with H2O (78.0 mL) and EtOH (78.0 mL). The suspension was heated to reflux to give a clear solution and then cooled to RT slowly. After 16 h, the suspension was cooled in an ice bath for 30 min and then filtered. The off-white solid was dried in vacuo at 80° C. for 2 days for provide the title compound (12.9 g, 81% yield). 1H NMR (400 MHz, CD3OD): δ 1.59-1.78 (m, 3H), 1.79-1.90 (m, 3H), 2.13 (br d, J=10.8 Hz, 4H), 2.35 (tt, J=12.4, 3.6 Hz, 1H), 3.20-3.42 (m, 1H), 3.37 (tt, J=12.0, 2.8 Hz, 1H), 3.66 (br s, 4H), 3.98 (s, 3H), 6.72 (d, J=7.6 Hz, 1H), 6.72 (s, 1H), 7.01 (dd, J=8.0, 8.0 Hz, 1H), 7.22 (d, J=8.4 Hz, 1H), 7.84 (s, 1H). X-ray powder diffraction analysis (XRPD) indicated that the salt is amorphous.

reactant | trans-4-[4-Amino-5-(7-methoxy-1H-indol-2-yl)-imidazo[5,1-f][1,2,4]triazin-7-yl]-cyclohexanecarboxylic acid | 27.4 mmol, 11.1 g | NC1=NC=NN2C1=C(N=C2[C@@H]2CC[C@H](CC2)C(=O)O)C=2NC1=C(C=CC=C1C2)OC | C21H22N6O3
reactant | L-arginine | 32.9 mmol, 5.72 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | H2O | 78.0 mL | O | H2O
solvent | EtOH | 78.0 mL | CCO | C2H6O
product | trans-4-[4-amino-5-(7-methoxy-1H-indol-2-yl)imidazo[5,1-f][1,2,4]triazin-7-yl]cyclohexanecarboxylic acid L-arginine salt | 12.9 g, 81% yield | N[C@@H](CCCNC(N)=N)C(=O)O.NC1=NC=NN2C1=C(N=C2[C@@H]2CC[C@H](CC2)C(=O)O)C=2NC1=C(C=CC=C1C2)OC | InChI=1S/C21H22N6O3.C6H14N4O2/c1-30-15-4-2-3-13-9-14(25-16(13)15)17-18-19(22)23-10-24-27(18)20(26-17)11-5-7-12(8-6-11)21(28)29;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,9-12,25H,5-8H2,1H3,(H,28,29)(H2,22,23,24);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t11-,12-;4-/m.0/s1
